US08835428B2
(S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-4-methyl-pentanoic acid
The title compound was prepared from (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-4-methyl-pentanoic acid methyl ester as set forth in Example 8 and was obtained in 70.7% yield. Mass (ES+): 443 (M++1); IR (KBr): 3326, 3305, 2935, 1748, 1635 (br), 1544, 1529; 1H NMR (DMSO-d6) δ: 0.87, 0.91 (2×d, 6H), 1.09-1.81 (5×m, 13H), 3.45 (br, 1H), 4.38 (m, 1H), 6.16 (d, 1H), 7.50 (d, 2H), 7.56 (s, 1H), 7.75 (d, 2H), 8.58 (s, 1H), 9.14 (d, 1H), 12.76 (br, 1H).

reactant | (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-4-methyl-pentanoic acid methyl ester | COC([C@H](CC(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1CCCCC1)=O | C24H32N4O5
reactant | KBr | [K+].[Br-]
product | (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-4-methyl-pentanoic acid | 70.7% yield | C1(CCCCC1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N[C@H](C(=O)O)CC(C)C)=O | C23H30N4O5
